Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Right arm and leg weakness
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Time/Date the patient was last known well: ___

Pre-stroke mRS ___ social history for description): 0

t-PA Administration
[] Yes - Time given:
[x] No - Reason t-PA was not given/considered: delay in patient
arrival. 

Endovascular intervention: []Yes [x]No

I was present during the CT scanning and reviewed the images
within 20 minutes of their completion.

___ Stroke Scale - Total [0]

1a. Level of Consciousness -0
1b. LOC Questions -0
1c. LOC Commands -0
2. Best Gaze -0
3. Visual Fields -0
4. Facial Palsy -0
5a. Motor arm, left -0
5b. Motor arm, right -0
6a. Motor leg, left -0
6b. Motor leg, right -0
7. Limb Ataxia -0
8. Sensory -0
9. Language -0
10. Dysarthria -0
11. Extinction and Neglect -0

HPI: 
Ms. ___ is a ___ yo right-handed woman with history of HTN, 
HLD, preDM who presents with right arm and leg weakness and 
numbness. 

Ms. ___ was last known well yesterday evening when she 
went to bed at approx. 2200. She woke at 0530 this morning and 
walked to the restroom. She doesn't remember whether or not her 
right side was normal when getting out of bed and ambulating to 
the restroom. Once in the restroom, she noted that her right arm 
and leg felt 'heavy' and numb. She was able to ambulate, but it 
was
more difficult and she felt off balance. She had difficulty 
lifting her right leg over the wall of the tub when getting into 
the shower. She had difficulty brushing her teeth with the 
toothbrush held in her right hand. She had difficulty putting on 
makeup as well. She thought about stroke and looked at her face 
in the mirror, noting that her smile looked symmetric. 

She went to work and had difficulty working on the computer and 
generally felt 'off' and lightheaded. Denies vertigo and 
disequilibrium.  She then presented to ___ ED. Approx on 
arrival to ___, her symptoms improved. She currently feels 
back at baseline. 
 

 
Past Medical History:
HTN
HLD: previously off statin, started simvastatin 20 mg on ___
after LDL that day was 166. 
pre-diabetes: HbA1c previously 6.0, increased to 6.3 on ___
RLE radicular pain with plan for outpt MRI L-spine. follows with
ortho for this. 
OSA- mild OSA by sleep study in ___ per Atrius records. Pt says
she was told it was possible osa, and that she was never told to
wear CPAP. Husband reports significant snoring. 
Hyperprolactinemia
urinary incontinence s/p urethral sling
Family history of cerebral aneurysm - vessel imaging in ___
showed 1.5mm outpouching from L M2, repeat MRA in ___ was
normal. 
 
Social History:
___
Family History:
Mother passed away from cerebral aneurysm
Father with CAD, PVD, HTN, Alzheimer dementia
Sister with DM and strokes (first stroke at age ___
Brother with diabetes
___ with colon cancer
 
Physical Exam:
PHYSICAL EXAMINATION
Vitals:  T: 97.7 HR: 69 BP: 156/76-> 164/85-> 138/76 RR: 17 
SaO2:
100 % RA
General: Awake, cooperative, NAD.
HEENT: no scleral icterus, MMM, no oropharyngeal lesions. 
Pulmonary:Breathing comfortably, no tachypnea nor increased WOB
Cardiac: RRR. Skin warm, well-perfused. 
Abdomen: soft, ND
Extremities: Symmetric, no edema. 

Neurologic Examination:
- Mental status: Awake, alert, oriented x 3. Able to relate 
history without difficulty. Attentive, able to name ___ backward 
without difficulty. Speech is fluent with normal grammar and 
syntax. No paraphasic errors. Naming intact to low frequency 
words. Repetition intact. Comprehension intact to complex, 
cross-body commands. Normal prosody. No extinction to DSS. 

-Cranial Nerves: Anisicoria with R pupil 2->1, L pupil 1.5->1. 
VFF to confrontation. EOMI with ___ beats of end-gaze nystagmus 
to the right only. Facial sensation intact to light touch. Face 
symmetric at rest and with activation. Hearing intact to 
conversation. Palate elevates symmetrically. ___ strength in 
trapezii bilaterally. Tongue protrudes in midline and moves 
briskly to each side. No dysarthria. 

- Motor:  Normal bulk and tone. No drift nor orbiting. No tremor
nor asterixis.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA Gastroc         
L  5    ___   ___  5   5    5  5                  
R  5    ___   ___  4   5    5  5                 
Pt states R IP weakness is chronic and thought related to her 
lumbar radiculopathy. 

-DTRs:
   Bi Tri ___ Pat Ach Pec jerk   Crossed Abductors
 L  2  2    2    2   2                        
 R  2  2    2    2   2                           
Plantar response was flexor bilaterally.

-Sensory: Proprioception intact BLE. Intact to LT, temp
throughout.

- Coordination: No dysmetria with finger to nose testing 
bilaterally. Good speed and intact cadence with gross and fine 
rapid alternating movements.

- Gait: deferred

 
Pertinent Results:
CT HEAD WITHOUT CONTRAST: 
There is no evidence of infarction, hemorrhage, edema, or mass.  
The 
ventricles and sulci are normal in size and configuration.  
There are 
mild-to-moderate chronic small vessel ischemic changes.
The visualized portion of the paranasal sinuses demonstrate a 
retention cyst in the left maxillary sinus.  Trace mucosal 
thickening right maxillary sinus floor.  Torus mandibularis, 
developmental variant, benign bilaterally.  A the mastoid air 
cells and middle ear cavities are unremarkable.  The visualized 
portion of the orbits are unremarkable. 
CTA HEAD: 
The vessels of the circle of ___ and their principal 
intracranial branches appear normal without stenosis, occlusion, 
or aneurysm formation.  The dural venous sinuses are patent. 
CTA NECK: 
The carotid and vertebral arteries and their major branches 
appear normal with no evidence of stenosis or occlusion. There 
is no evidence of internal carotid stenosis by NASCET criteria. 
OTHER: 
The visualized portion of the lungs are clear.  The visualized 
portion of the thyroid gland is within normal limits. There is 
no lymphadenopathy by CT size criteria. 
IMPRESSION: 
1. No acute changes. 
2. Mild-to-moderate chronic small vessel ischemic changes. 
3. Normal CTA head, neck. 

MRI HEAD W/O CONTRAST:
There is a small acute infarct in the left pons, not definitely 
seen on 
comparison scan.  No hemorrhage.  There are mild-to-moderate 
chronic small 
vessel ischemic changes, with areas of confluence.  There 
prominent 
perivascular spaces.  Intracranial vascular flow voids are 
preserved..  
Submucosal retention cyst left maxillary sinus.  Mastoids are 
clear.  There is no evidence of hemorrhage, edema, masses, mass 
effect, midline shift.  The ventricles and sulci are normal in 
caliber and configuration. 
IMPRESSION: 
1. Acute infarct left pons. 

ECHO:
The left atrium is normal in size. No atrial septal defect or 
patent foramen ovale is seen by 2D, color Doppler or saline 
contrast with maneuvers. Left ventricular wall thickness, cavity 
size, and global systolic function are normal (LVEF>55%). Due to 
suboptimal technical quality, a focal wall motion abnormality 
cannot be fully excluded. Tissue Doppler imaging suggests a 
normal left ventricular filling pressure (PCWP<12mmHg). Right 
ventricular chamber size and free wall motion are normal. The 
diameters of aorta at the sinus, ascending and arch levels are 
normal. The aortic valve leaflets are mildly thickened (?#). 
There is no aortic valve stenosis. No aortic regurgitation is 
seen. The mitral valve leaflets are mildly thickened. Trivial 
mitral regurgitation is seen. The estimated pulmonary artery 
systolic pressure is normal. There is a trivial/physiologic 
pericardial effusion. There is an anterior space which most 
likely represents a prominent fat pad. 
 IMPRESSION: Suboptimal image quality. No intracardiac source of 
thromboembolism identified. Dynamic interatrial septum without 
evidence of atrial septal defect.  
 
Brief Hospital Course:
Ms. ___ is a ___ year old woman with hypertension, 
hyperlipidemia, pre-diabetes, obesity, and sleep apnea who is 
admitted to the Neurology stroke service after right arm and leg 
weakness lasting approximately 4 hours secondary to an acute 
ischemic stroke in the left pons. Her stroke was either due to a 
temporary occlusion of one of the perforator vessels coming off 
the basilar artery or due to intrinsic disease in one of the 
small vessels coming off one of the perforator vessels given her 
risk factors (HTN, HL, pre-DM, obesity, lack of exercise, sleep 
apnea) and the stroke's location. She was not on Aspirin 
previously. Her deficits improved by the time she arrived in the 
ED; the only notable weakness upon discharge from the hospital 
was subtle pronator drift, as well as her chronic right hip 
weakness. TTE was normal without a PFO. She will be discharged 
home and follow up within the ___ system.

 Her stroke risk factors include the following: 
 1) Pre-diabetes: A1c 6.3%
 2) Hypertension: on Chlorthalidone 
 3) Hyperlipidemia: recently started on Simvastatin, switched to 
high intensity statin (Atorvastatin 80mg)
 4) Obesity 
 5) Sleep apnea - she has been previously diagnosed with this, 
but does not use CPAP

TRANSITIONAL ISSUES:
-Recommend outpatient sleep study for evaluation of obstructive 
sleep apnea
-Outpatient physical/occupational therapy
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Chlorthalidone 25 mg PO DAILY 
2. Simvastatin 20 mg PO QPM 
3. Omeprazole 20 mg PO DAILY 
4. Gabapentin 300 mg PO TID 
5. Albuterol Inhaler 2 PUFF IH Q4H:PRN wheeze 
6. Fluticasone Propionate NASAL 2 SPRY NU DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*3 
2.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth at bedtime Disp #*30 
Tablet Refills:*3 
3.  Albuterol Inhaler 2 PUFF IH Q4H:PRN wheeze  
4.  Chlorthalidone 25 mg PO DAILY  
5.  Fluticasone Propionate NASAL 2 SPRY NU DAILY  
6.  Gabapentin 300 mg PO TID  
7.  Omeprazole 20 mg PO DAILY  
8.Outpatient Occupational Therapy
Evaluate and treat
Diagnosis: stroke
9.Outpatient Physical Therapy
Evaluate and treat
Diagnosis: stroke

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute ischemic stroke

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms ___,

 You were hospitalized due to symptoms of right arm and leg 
weakness resulting from an ACUTE ISCHEMIC STROKE, a condition 
where a blood vessel providing oxygen and nutrients to the brain 
is blocked by a clot. The brain is the part of your body that 
controls and directs all the other parts of your body, so damage 
to the brain from being deprived of its blood supply can result 
in a variety of symptoms. 
 
 Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:  
 High blood pressure
 High cholesterol
 Pre-diabetes
 Obesity
 Sleep apnea

 We are changing your medications as follows:  
 Stop Simvastatin
 Start Aspirin 81mg daily
 Start Atorvastatin 80mg daily

 Please take your other medications as prescribed.  

 Please follow up with Neurology and your primary care physician 
as listed below.  

 If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
 - Sudden partial or complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
you  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body  

 Sincerely,  
 Your ___ Neurology Team  

 
Followup Instructions:
___